US04734416
2.7 Grams of 4-methyl-7-(3-chloropropoxy)carbostyril and 1.8 g of sodium iodide are mixed with 50 ml of acetone and heated for 3 hours under refluxing conditions. Then 50 ml of dimethylformamide is added thereto and acetone is removed by distillation under reduced pressure. Next, 1.5 g of triethylamine and 1.8 g of 4-phenylpiperazine are added thereto and stirred for 3 hours at 80°-90° C. and dimethylformamide is removed by distillation under reduced pressure. To the residue thus obtained is added 5% sodium hydrogencarbonate aqueous solution to effect crystallization of the product and the precipitates formed are collected by filtration, washed with water, washed with isopropanol, further washed with ether and dried. The crude crystals thus obtained are dispersed in 80 ml of methanol, and dissolved by adding 5 ml of concentrated hydrochloric acid, then concentrated under a reduced pressure to dryness. The thus obtained residue is recrystallized from methanol-ether to obtain 3.6 g (yield: 80%) of 4-methyl-7-[3-(4-phenylpiperazinyl)propoxy]carbostyril dihydrochloride in the form of colorless crystals with a melting point of 253°-254° C. (decomp.).

reactant | 4-methyl-7-(3-chloropropoxy)carbostyril | CC1=CC(NC2=CC(=CC=C12)OCCCCl)=O | C13H14ClNO2
reactant | sodium iodide | 1.8 g | [I-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methanol | 80 ml | CO | CH4O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-methyl-7-[3-(4-phenylpiperazinyl)propoxy]carbostyril dihydrochloride | 3.6 g, yield: 80% | Cl.Cl.CC1=CC(NC2=CC(=CC=C12)OCCCN1CCN(CC1)C1=CC=CC=C1)=O | InChI=1S/C23H27N3O2.2ClH/c1-18-16-23(27)24-22-17-20(8-9-21(18)22)28-15-5-10-25-11-13-26(14-12-25)19-6-3-2-4-7-19;;/h2-4,6-9,16-17H,5,10-15H2,1H3,(H,24,27);2*1H
